US06211242B1
To a solution of 4-(4′-aminobiphenyl-2-carboxamido)-3-methoxy-N-[2-[5-(4-dimethylaminopiperidin-1-ylcarbonyl)pent-1-yloxy]-4-methylphenyl]-N-methylbenzamide (180 mg) and 37% formalin (3 ml) in methanol (20 ml) and acetic acid (0.5 ml) was added sodium cyanoborohydride (80 mg) at ambient temperature. The mixture was stirred at same temperature for 3 hours and quenched with saturated sodium hydrogen carbonate. The mixture was extracted with ethyl acetate and washed with saturated sodium hydrogen carbonate, brine and dried over sodium sulfate. The solvent was removed by evaporation and the crude product was purified by preparative thin layer chromatography (10% methanol in chloroform) to give free product. To a solution of this product (120 mg) in ethanol (10 ml) was added 1N hydrochloric acid (0.33 ml) and stirred at ambient temperature for 10 minutes. The solvent was removed to give 4-(4′-dimethylaminobiphenyl-2-carboxamido)-3-methoxy-N-[2-[5-(4-dimethylaminopiperidin-1-ylcarbonyl)pent-1-yloxy]-4-methylphenyl]-N-methylbenzamide dihydrochloride (130 mg) as amorphous.

reactant | 4-(4′-aminobiphenyl-2-carboxamido)-3-methoxy-N-[2-[5-(4-dimethylaminopiperidin-1-ylcarbonyl)pent-1-yloxy]-4-methylphenyl]-N-methylbenzamide | 180 mg | NC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=C(C=C(C(=O)N(C)C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCC(CC2)N(C)C)C=C1)OC | C42H51N5O5
reactant | formalin | 3 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 80 mg | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 1N, 0.33 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(4′-dimethylaminobiphenyl-2-carboxamido)-3-methoxy-N-[2-[5-(4-dimethylaminopiperidin-1-ylcarbonyl)pent-1-yloxy]-4-methylphenyl]-N-methylbenzamide dihydrochloride | 130 mg | Cl.Cl.CN(C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=C(C=C(C(=O)N(C)C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCC(CC2)N(C)C)C=C1)OC)C | InChI=1S/C44H55N5O5.2ClH/c1-31-16-23-39(41(29-31)54-28-12-8-9-15-42(50)49-26-24-35(25-27-49)47(4)5)48(6)44(52)33-19-22-38(40(30-33)53-7)45-43(51)37-14-11-10-13-36(37)32-17-20-34(21-18-32)46(2)3;;/h10-11,13-14,16-23,29-30,35H,8-9,12,15,24-28H2,1-7H3,(H,45,51);2*1H
